US06277993B1
Preparation of 1,2-dihydro-5-(2-thienyl)-2-oxo-1,6-naphthyridine-3-carboxylic acid:
A mixture of 1,2-dihydro-5-(2-thienyl)-2-oxo-1,6-naphthyridine-3-carbonitrile (10.0 g), ethanol (300 ml) and 10N NaOH (300 ml) was refluxed overnight. After cooling, the reaction mixture was neutralized with acetic acid, and the precipitated crystals were separated by filtration, washed with water, isopropanol and diisopropyl ether in this order and then dried to give the title compound (Compound No. 44)(10.5 g) as pale yellow crystals. M.p. 2780° C.

reactant | 1,2-dihydro-5-(2-thienyl)-2-oxo-1,6-naphthyridine-3-carbonitrile | 10.0 g | S1C(=CC=C1)C1=C2C=C(C(NC2=CC=N1)=O)C#N | C13H7N3OS
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | NaOH | 10N, 300 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2-dihydro-5-(2-thienyl)-2-oxo-1,6-naphthyridine-3-carboxylic acid | S1C(=CC=C1)C1=C2C=C(C(NC2=CC=N1)=O)C(=O)O | C13H8N2O3S
